US06458772B1
b) Preparation of 1-O—(N-trityl-L-valyl)-2-allyl-1,3-propandiol
To a solution of N-trityl-L-valine (5.5 g, 15.2 mmole), 2-allyl-1,3-propandiol (4.4 g, 38 mmol), N,N-dimethylamino pyridine (183 mg, 1.5 mmol) in dichloromethane (120 ml) was added DCC (3.5 g, 16.7 mmol). The reaction was kept under reflux overnight. After filtration through Celite, the organic phase was washed with sodium hydrogen carbonate aqueous solution and dried. Silica gel column chromatography gave 4.6 g intermediate 1-O—(N-trityl-L-valyl)-2-allyl-1,3-propandiol.

reactant | N-trityl-L-valine | 15.2 mmole, 5.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H](C(C)C)C(=O)O | C24H25NO2
reactant | 2-allyl-1,3-propandiol | 38 mmol, 4.4 g | C(C=C)C(CO)CO | C6H12O2
reactant | DCC | 16.7 mmol, 3.5 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 1-O—(N-trityl-L-valyl)-2-allyl-1,3-propandiol | 4.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OCC(CO)CC=C | C30H35NO3
